US04912219
1-{1-[(4-Fluorophenyl)methyl]-1H-benzimidazol-2-yl}-N-(2-pyrimidinyl)-4-piperidinamine (Method A, R1 =4-F-C6H4 -CH2, R2 =R3 =R4 =H, X=CH).
A mixture of 1.71 g (0.005 mole) of 1-{1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl}-4-piperidinamine, 0.57 g (0.005 mole) of 2-chloropyrimidine, 0.43 g (0.052 mole) of sodium bicarbonate and 19 ml of ethanol is brought to reflux temperature for 2 days and 2 nights. The mixture is evaporated to dryness, and water and 2N sodium hydroxide are added. The product is taken up with methylene chloride, decanted and washed with water. The product is chromatographed on a silica column (eluent: dichloromethane/methanol, 47:3).

reactant | 1-{1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl}-4-piperidinamine | 0.005 mole, 1.71 g | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCC(CC2)N | C19H21FN4
reactant | 2-chloropyrimidine | 0.005 mole, 0.57 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | sodium bicarbonate | 0.052 mole, 0.43 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 19 ml | C(C)O | C2H6O
product | 1-{1-[(4-Fluorophenyl)methyl]-1H-benzimidazol-2-yl}-N-(2-pyrimidinyl)-4-piperidinamine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)N2CCC(CC2)NC2=NC=CC=N2 | C23H23FN6
